US09290451B2
c) 5-Cyclopropyl-6-(2,4-dichloro-phenylamino)-pyridine-2-carboxylic acid
A solution of 5-cyclopropyl-6-(2,4-dichloro-phenylamino)-pyridine-2-carboxylic acid methyl ester (62 mg, 184 μmol) and lithium hydroxide hydrate (9.3 mg, 221 μmol) in THF (100 μl) and water (50 μl) was stirred at ambient temperature for 20 h. The reaction mixture was poured onto 1 M HCl/ice water (1×20 mL) and extracted with i-PrOAc (2×25 mL). The combined organic layers were dried over sodium sulfate. The solvent was removed under reduced pressure to obtain the title compound (6 mg, 10%) as colorless liquid, which was sufficiently pure to be used in the next reaction step, MS (EI): m/e=323.3 [M+H]+.

reactant | 5-cyclopropyl-6-(2,4-dichloro-phenylamino)-pyridine-2-carboxylic acid methyl ester | 184 μmol, 62 mg | COC(=O)C1=NC(=C(C=C1)C1CC1)NC1=C(C=C(C=C1)Cl)Cl | C16H14Cl2N2O2
reactant | lithium hydroxide hydrate | 221 μmol, 9.3 mg | O.[OH-].[Li+]
solvent | THF | 100 μl | C1CCOC1 | C4H8O
solvent | water | 50 μl | O | H2O
product | 5-Cyclopropyl-6-(2,4-dichloro-phenylamino)-pyridine-2-carboxylic acid | 6 mg, 10% | C1(CC1)C=1C=CC(=NC1NC1=C(C=C(C=C1)Cl)Cl)C(=O)O | C15H12Cl2N2O2
